US05506261
Step 5: Z-(R)-N-[3-(5-(4-chlorophenylmethyl)-thien-2-yl)-1-methyl-2-propenyl]-N-hydroxyurea
The desired compound is prepared according to the method of Example 1, step 5, except substituting (R)-N-{3-[5-(4-chlorophenylmethyl)thien-2-yl]-1-methyl-2-propynyl}-N-hydroxyurea, prepared as in step 4, for (R)-N-{3-[5-(4-fluorophenylmethyl)thien-2-yl]-1-methyl-2-propynyl}-N-hydroxyurea.

reactant | (R)-N-{3-[5-(4-chlorophenylmethyl)thien-2-yl]-1-methyl-2-propynyl}-N-hydroxyurea | ClC1=CC=C(C=C1)CC1=CC=C(S1)C#C[C@@H](C)N(C(=O)N)O | C16H15ClN2O2S
reactant | (R)-N-{3-[5-(4-fluorophenylmethyl)thien-2-yl]-1-methyl-2-propynyl}-N-hydroxyurea | FC1=CC=C(C=C1)CC1=CC=C(S1)C#C[C@@H](C)N(C(=O)N)O | C16H15FN2O2S
product | Z-(R)-N-[3-(5-(4-chlorophenylmethyl)-thien-2-yl)-1-methyl-2-propenyl]-N-hydroxyurea | ClC1=CC=C(C=C1)CC1=CC=C(S1)\C=C/[C@@H](C)N(C(=O)N)O | C16H17ClN2O2S
